US07011838B2
Using 0.1 g of benzylmalononitrile, 5 ml of N,N-dimethylformamide, 0.010 g of sodium hydride (60% in oil), and 0.04 g of 4-bromo-1,1,2-trifluoro-1-butene, and according to the process described in the Production Example 1, there was obtained 0.042 g of 2-benzyl-2-(3,4,4-trifluoro-3-butenyl)malononitrile (the present compound (4)).

reactant | benzylmalononitrile | 0.1 g | C(C1=CC=CC=C1)C(C#N)C#N | C10H8N2
reactant | sodium hydride | 0.010 g | [H-].[Na+]
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.04 g | BrCCC(=C(F)F)F | C4H4BrF3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-benzyl-2-(3,4,4-trifluoro-3-butenyl)malononitrile | 0.042 g, Yield: 57% | C(C1=CC=CC=C1)C(C#N)(C#N)CCC(=C(F)F)F | C14H11F3N2
